US05137920
1.07 g of 7-chloroheptylbenzene and 0.89 g of 4-chlorobenzoyl chloride were dissolved in 10 ml of nitrobenzene and treated with 0.82 g of aluminium chloride under argon and while cooling with ice. The mixture was then stirred at room temperature for 18 hours, taken up in 100 ml of ice-cold 2N hydrochloric acid solution and extracted three times with 50 ml of ether each time. The organic phases were washed with 50 ml of a 10 percent sodium bicarbonate solution and 50 ml of a saturated sodium chloride solution, dried over magnesium sulphate and concentrated. The nitrobenzene was removed by distillation at 80°-100° C. and 20 Pa. By distillation at 240°-250° C. and about 13.4 Pa there were obtained 1.32 g (74%) of 4-chloro-4'-(7-chloroheptyl)benzophenone as a light yellow oil.

reactant | 7-chloroheptylbenzene | 1.07 g | ClCCCCCCCC1=CC=CC=C1 | C13H19Cl
reactant | 4-chlorobenzoyl chloride | 0.89 g | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
reactant | aluminium chloride | 0.82 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | nitrobenzene | 10 ml | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
product | 4-chloro-4'-(7-chloroheptyl)benzophenone | 1.32 g, 74% | ClC1=CC=C(C(=O)C2=CC=C(C=C2)CCCCCCCCl)C=C1 | C20H22Cl2O
